US05534510
0.3 g of sodium hydroxide was added to 64.8 g of benzylalcohol and the reaction mixture was cooled to 0° C. To this reaction mixture was added 12.9 g of β-butyrolactone and the mixture was stirred for 5 minutes at 0° C. and for 2 hours at room temperature. After reaction, the reaction solution was neutralized by adding 15 ml of 1N-HCl solution and the separated organic layer was washed with saturated sodium bicarbonate aqueous solution and saline, and dried over magnesium sulfate. The resulting organic layer was distilled under reduced pressure to give 23.3 g (79%) of benzyl 3-hydroxybutanoate [Compound (11)]as oil.

reactant | benzylalcohol | 64.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | β-butyrolactone | 12.9 g | C1(CC(C)O1)=O | C4H6O2
reactant | HCl | Cl | ClH
catalyst | sodium hydroxide | 0.3 g | [OH-].[Na+]
product | benzyl 3-hydroxybutanoate | 23.3 g, 79% | OC(CC(=O)OCC1=CC=CC=C1)C | C11H14O3
